US08420816B2
STEP B: 1-tert-butyl 3-methyl 4-(((2R,3S)-1-(cyclopentylamino)-3-methyl-1-oxopentan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate
To (2R,3S)-2-((1-(tert-butoxycarbonyl)-3-(methoxycarbonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)methylamino)-3-methylpentanoic acid was added THF (2 mL), followed by HATU (94 mg, 0.246 mmol), cyclopentanamine (70.0 mg, 0.822 mmol) and 4-methylmorpholine (83 mg, 0.822 mmol). The suspension was stirred at 43° C. for 36 h to afford the title compound, which was used in the next step without further purification. [M+H] calc'd for C26H38N4O5, 487; found, 487.7.

reactant | (2R,3S)-2-((1-(tert-butoxycarbonyl)-3-(methoxycarbonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)methylamino)-3-methylpentanoic acid | C(C)(C)(C)OC(=O)N1C=C(C=2C1=NC=CC2CN[C@@H](C(=O)O)[C@H](CC)C)C(=O)OC | C21H29N3O6
reactant | HATU | 0.246 mmol, 94 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopentanamine | 0.822 mmol, 70.0 mg | C1(CCCC1)N | C5H11N
reactant | 4-methylmorpholine | 0.822 mmol, 83 mg | CN1CCOCC1 | C5H11NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 3-methyl 4-(((2R,3S)-1-(cyclopentylamino)-3-methyl-1-oxopentan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate | C1(CCCC1)NC([C@@H]([C@H](CC)C)NCC1=C2C(=NC=C1)N(C=C2C(=O)OC)C(=O)OC(C)(C)C)=O | C26H38N4O5
